US09382238B2
To a mixture of 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile (2 g, 11.16 mmol) in EtOH (10 mL) was added hydrazine (1.263 g, 33.5 mmol) and concentrated HCl (0.5 mL). Then the mixture was stirred at 100° C. for 18 h. Then the mixture was concentrated to give the residue which was distributed between DCM (20 mL) and H2O (10 mL), and extracted with DCM (20 mL×2). The combined organic extracts were washed with brine (20 mL), dried over Na2SO4, filtered and concentrated. The crude product was purified by silica column chromatography (100% EA, 12 g silica column). All fractions found to contain product by TLC (EA, Rf=0.3) were combined and concentrated to yield an off-white oil of 3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine (500 mg, 2.459 mmol, 22.03% yield): 1H NMR (400 MHz, CD3OD) δ 5.58 (s, 1H), 1.47 (s, 6H). ES-LCMS m/z 194 (M+H).

reactant | 5,5,5-trifluoro-4,4-dimethyl-3-oxopentanenitrile | 11.16 mmol, 2 g | FC(C(C(CC#N)=O)(C)C)(F)F | C7H8F3NO
reactant | hydrazine | 33.5 mmol, 1.263 g | NN | H4N2
reactant | HCl | 0.5 mL | Cl | ClH
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 10 mL | O | H2O
product | 3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine | 2.459 mmol, 500 mg, 22.03% yield | FC(C(C)(C)C1=NNC(=C1)N)(F)F | C7H10F3N3
